US04987132
To a suspension of lithium aluminum hydride (1.71 g) in tetrahydrofuran (50 ml) was dropwise added a solution of methyl 2-methyl-2-phenylpropionate (7.97 g) in tetrahydrofuran (20 ml) under ice cooling and the mixture was stirred at room temperature for 30 minutes. To the reaction solution was dropwise added water and then a saturated aqueous solution of sodium bicarbonate, and the solution was extracted with ether. The ehter layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resultant residue was subjected to silica gel (100 g) column chromatography. Elution with a mixture solution of hexane-ethyl acetate (2:1) gave 6.32 9 of 2-methyl-2-phenylpropanol.

reactant | lithium aluminum hydride | 1.71 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-methyl-2-phenylpropionate | 7.97 g | CC(C(=O)OC)(C)C1=CC=CC=C1 | C11H14O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-methyl-2-phenylpropanol | CC(CO)(C)C1=CC=CC=C1 | C10H14O
